US06613743B2
(2S)-N1-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)-2-[(2-quinolinylcarbonyl)amino]butanediamide.
tert-butyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate (0.18 mmol, 100 mg) was stirred in 1 mL trifluoroacetic acid (TFA) at room temperature for 1 hour. The TFA was removed under vacuum, and the resulting residue was dissolved in ethyl acetate, washed with 5% aq. potassium carbonate solution, brine, dried over magnesium sulfate, and concentrated to a residue. The resulting free amine, (2S)-4-amino-4-oxo-2-[(2-quinolinylcarbonyl)amino]butanoic acid hydrochloride (0.18 mmol, 56 mg), 1-hydroxybenzotriazole hydrate (0.18 mmol, 25 mg), N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.20 mmol, 38 mg), diisopropylethylamine (0.91 mmol, 0.157 mL) and anhydrous N,N-dimethylformamide (0.5 mL) were combined at room temperature and stirred for 15 hours. The crude reaction mixture was concentrated to a residue, dissolved in ethyl acetate, washed with 1N HCl, 5% aq. potassium carbonate solution, brine and dried over magnesium sulfate. The solution was concentrated to a residue, purified by silica gel chromatography (ethyl acetate), and lyophylized providing a fluffy white solid. H-1-NMR (CDCl3): δ 9.19-9.17 (1H,m), 8.32-8.30 (1H,m), 8.23-8.16 (2H,m), 7.89-7.87 (1H,m), 7.79-7.76 (3H,m), 7.65-7.61 (1H,m), 7.13-7.11 (2H,m), 7.05-6.94 (6H,m), 5.73-5.64 (1H,m), 5.41-5.33 (1H,m), 4.96-4.85 (1H,m), 4.28-4.08 2H,m), 3.89-3.74 (1H,m), 3.86 (3H,s), 3.25 (1H,bs), 2.95-2.79 (5H,m), 2.65-2.60 (1H,m), 2.04 (2H,bs), 1.70 (2H,bs), 1.57-1.41 (1H,m), 1.30-1.10 (5H,m); MS (ESI): M+H=719.

reactant | tert-butyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | 0.18 mmol, 100 mg | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(OC(C)(C)C)=O | C28H40N2O7S
reactant | (2S)-4-amino-4-oxo-2-[(2-quinolinylcarbonyl)amino]butanoic acid hydrochloride | 0.18 mmol, 56 mg | Cl.NC(C[C@@H](C(=O)O)NC(=O)C1=NC2=CC=CC=C2C=C1)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.18 mmol, 25 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.20 mmol, 38 mg | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 0.91 mmol, 0.157 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | (2S)-N1-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)-2-[(2-quinolinylcarbonyl)amino]butanediamide | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC([C@H](CC(=O)N)NC(=O)C1=NC2=CC=CC=C2C=C1)=O | C37H43N5O8S
